US08541455B2
To a solution of 0.34 g (15.1 mmol) of sodium in 8 mL of anhydrous MeOH are added dropwise, at room temperature and under argon, 1.6 mL (15.1 mmol) of methyl acetoacetate. After stirring for 30 minutes, 3.25 g (15.11 mmol) of 1-(bromomethyl)-3-(methoxymethyl)benzene are rapidly added dropwise and the reaction medium is then heated for 2 hours 30 minutes at 70° C. The reaction medium is then concentrated under reduced pressure, and the residue obtained is purified by chromatography on a column of silica gel, eluting with a cyclohexane/EtOAc gradient of 0 to 20% EtOAc. 3.2 g of methyl 2-[3-(methoxymethyl)benzyl]-3-oxobutanoate are obtained in the form of an oil.

reactant | sodium | 15.1 mmol, 0.34 g | [Na] | Na
reactant | methyl acetoacetate | 15.1 mmol, 1.6 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 1-(bromomethyl)-3-(methoxymethyl)benzene | 15.11 mmol, 3.25 g | BrCC1=CC(=CC=C1)COC | C9H11BrO
solvent | MeOH | 8 mL | CO | CH4O
product | methyl 2-[3-(methoxymethyl)benzyl]-3-oxobutanoate | 3.2 g, Yield=85% | COCC=1C=C(CC(C(=O)OC)C(C)=O)C=CC1 | C14H18O4
